US03975395
15g of 2-(1-phenyl-5-tetrazolylthio)-6-(1,1,3,3-tetramethylbutyl)-p-benzoquinone was added to 150ml of methanol and the mixture was cooled to 0°C while stirring. Then a solution of 4.5g of thiophenol in 25ml of methanol was added dropwise to this mixture. After the addition, the mixture was stirred at 0°C for 3 hours. The resulting crystals were separated by filtration and recrystallized from a solvent mixture of n-hexane and ethyl acetate (n-hexane/ethyl acetate = 5/1 by volume). Thus 7.5g of 2-(1-phenyl-5-tetrazolylthio)-3-phenylthio-6-(1,1,3,3-tetramethylbutyl)-hydroquinone having a melting point of 147°C was obtained.

reactant | 2-(1-phenyl-5-tetrazolylthio)-6-(1,1,3,3-tetramethylbutyl)-p-benzoquinone | C1(=CC=CC=C1)N1N=NN=C1SC=1C(C(=CC(C1)=O)C(CC(C)(C)C)(C)C)=O | C21H24N4O2S
reactant | thiophenol | 4.5g | C1(=CC=CC=C1)S | C6H6S
solvent | methanol | 25ml | CO | CH4O
solvent | methanol | 150ml | CO | CH4O
product | 2-(1-phenyl-5-tetrazolylthio)-3-phenylthio-6-(1,1,3,3-tetramethylbutyl)-hydroquinone | 7.5g | C1(=CC=CC=C1)N1N=NN=C1SC1=C(O)C(=CC(=C1SC1=CC=CC=C1)O)C(CC(C)(C)C)(C)C | C27H30N4O2S2
